US07897631B2
4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride (0.091 g, 0.576 mmol) was reacted with 2-azidomethyl-1H-benzimidazole, which was synthesized using previously reported methods (Hiales et al., Synthesis 1978, 4, 313-315), (0.120 g, 0.691 mmol) following the general procedure for click reactions outlined above to produce 4-[1-(1H-Benzoimidazol-2-ylmethyl)-1H-[1,2,3]triazol-4-ylmethyl]1Himidazol-2-ylamine dihydrochloride (0.125 g, 59%) of a yellow solid. 1H NMR (300 MHz, CD3OD) δ 8.01 (s, 1H), δ 7.58 (d, 2H), δ 7.31 (t, 2H), δ 6.44 (s, 1H), δ 5.98 (s, 2H) δ 3.84 (s, 2H) ppm; 13C (75 MHz, CD3OD) δ 135.6, 124.7, 123.7, 123.5, 122.8, 112.8, 112.3, 108.4, 83.6, 78.9, 74.0, 73.2, 44.2, 19.3 ppm; HRMS (ESI) calcd for C14H14N8 (M+) 295.1414. found 295.1420.

reactant | 4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.576 mmol, 0.091 g | Cl.C(C#C)C=1N=C(NC1)N
reactant | 2-azidomethyl-1H-benzimidazole | N(=[N+]=[N-])CC1=NC2=C(N1)C=CC=C2 | C8H7N5
product | 4-[1-(1H-Benzoimidazol-2-ylmethyl)-1H-[1,2,3]triazol-4-ylmethyl]1Himidazol-2-ylamine dihydrochloride | 0.125 g, 59% | Cl.Cl.N1C(=NC2=C1C=CC=C2)CN2N=NC(=C2)CC=2N=C(NC2)N | InChI=1S/C14H14N8.2ClH/c15-14-16-6-9(17-14)5-10-7-22(21-20-10)8-13-18-11-3-1-2-4-12(11)19-13;;/h1-4,6-7H,5,8H2,(H,18,19)(H3,15,16,17);2*1H
